US07285563B2
Isoquinolin-7-yl trifluoromethanesulfonate
7-Hydroxyisoquinoline (1.4 g, 9.6 mmol) and triethylamine (1.5 ml, 10.6 mmol) were added to ether (50 ml) under a nitrogen atmosphere at 0° C. Trifluoromethylsulfonic anhydride (1.8 ml, 10.6 mmol) was added dropwise and the mixture then warmed to room temperature for 3 h. The layers were separated and the lower layer extracted with ether (2×100 ml). The combined organics were then dried (Na2SO4) and evaporated to give the title compound as a brown oil (1.04 g).

reactant | 7-Hydroxyisoquinoline | 9.6 mmol, 1.4 g | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | triethylamine | 10.6 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethylsulfonic anhydride | 10.6 mmol, 1.8 ml | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | ether | 50 ml | CCOCC | C4H10O
product | Isoquinolin-7-yl trifluoromethanesulfonate | 1.04 g | FC(S(=O)(=O)OC1=CC=C2C=CN=CC2=C1)(F)F | C10H6F3NO3S
